US07427390B2
387 mg (1.46 mmol) of 4-amino-N-(2-diethylamino-ethyl)-2-methoxy-benzamide in 15 ml of dimethylformamide is mixed with 1.5 ml of propionic acid anhydride, and this mixture is stirred for 2 hours at room temperature. After concentration by evaporation in a vacuum, the residue is taken up in 40 ml of dilute sodium bicarbonate solution and then extracted with 40 ml of ethyl acetate. The ethyl acetate phase is washed with water, dried, filtered and concentrated by evaporation. The residue is absorptively precipitated with diisopropyl ether and suctioned off. 250 mg (55.7% of theory) of 4-propionylamino-N-(2-diethylamino-ethyl)-2-methoxy-benzamide (melting point 137° C.) is obtained.

reactant | 4-amino-N-(2-diethylamino-ethyl)-2-methoxy-benzamide | 1.46 mmol, 387 mg | NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1)OC | C14H23N3O2
reactant | propionic acid anhydride | 1.5 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-propionylamino-N-(2-diethylamino-ethyl)-2-methoxy-benzamide | 250 mg, 55.7% | C(CC)(=O)NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1)OC | C17H27N3O3
